US07807840B2
Under an argon atmosphere, n-butyl lithium (a 1.56 mol/L hexane solution, 44.4 mL) and 1,2-dimethoxyethane (7.2 mL) were added to a solution of benzothiophene (8.45 g) in tetrahydrofuran (120 mL) under ice-cooling and stirring and then stirred under ice-cooling for 30 minutes. A solution of (R)-3,4-dipropyl-1,2,3-oxathiazolidine 2,2-dioxide (14.36 g) in tetrahydrofuran (43.0 mL) was added dropwise to the resulting solution and stirred under ice-cooling for 2.5 hours. Under ice-cooling and stirring, 1 mol/L hydrochloric acid (200 mL) was added to the resulting solution and stirred at room temperature for 1.5 hours. Diethyl ether (200 mL) was added to the solution, and the mixture was separated. The aqueous layer was neutralized with 1 mol/L sodium hydroxide and then extracted with diethyl ether. The organic layer was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. Saturated hydrogen chloride in diethyl ether (10 mL) was added to a solution of the residue in diethyl ether (50 mL) under ice-cooling and stirring. After stirring at the same temperature for several minutes, the solvent was removed under reduced pressure. The residue was recrystallized from ethanol (100 mL) to give (R)-1-(2-benzothienyl)-2-propylaminopentane hydrochloride (13.17 g, 70% yield) as white crystals.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | benzothiophene | 8.45 g | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | (R)-3,4-dipropyl-1,2,3-oxathiazolidine 2,2-dioxide | 14.36 g | C(CC)N1S(OC[C@H]1CCC)(=O)=O | C8H17NO3S
reactant | hydrochloric acid | 1 mol/L, 200 mL | Cl | ClH
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 43.0 mL | O1CCCC1 | C4H8O
solvent | Diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | 1,2-dimethoxyethane | 7.2 mL | COCCOC | C4H10O2
solvent | hexane | 1.56 mol/L | CCCCCC | C6H14
product | (R)-1-(2-benzothienyl)-2-propylaminopentane hydrochloride | 13.17 g, 70% yield | Cl.S1C(=CC2=C1C=CC=C2)C[C@@H](CCC)NCCC | InChI=1S/C16H23NS.ClH/c1-3-7-14(17-10-4-2)12-15-11-13-8-5-6-9-16(13)18-15;/h5-6,8-9,11,14,17H,3-4,7,10,12H2,1-2H3;1H/t14-;/m1./s1
